US07098525B2
A mixture of 22.2 g 4-vinyl benzylchloride (0.131 mol), 60 mL dimethylsulfoxide, and 12.8 g potassium cyanide (0.196 mol) was stirred at room temperature for 17 hours. The mixture was poured into 500 mL water and extracted several times with ethyl acetate. The combined organic layers were washed with brine and concentrated under vacuum. The crude red oil was purified by column chromatography on silica gel using 7/93 ethyl acetate/hexane to give 4-vinylbenzylcyanide, a yellow oil (18.03 g, 96%).

reactant | 4-vinyl benzylchloride | 0.131 mol, 22.2 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | dimethylsulfoxide | 60 mL | CS(=O)C | C2H6OS
reactant | potassium cyanide | 0.196 mol, 12.8 g | [C-]#N.[K+]
solvent | water | 500 mL | O | H2O
product | 4-vinylbenzylcyanide | C(=C)C1=CC=C(CC#N)C=C1 | C10H9N
